US06469176B1
Preparation of 3-(3-Bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole (Process Step e))
At 0° C., 10 g (48 mmol) of 3-(2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole are added a little at a time to 120 ml of conc. sulfuric acid, and the mixture is stirred for approximately 30 minutes. 3.7 g (23 mmol) of bromine are then added dropwise, and the mixture is stirred at 0° C. for 2.5 hours. Over a period of approximately 45 minutes, the mixture is subsequently allowed to warm to room temperature. A homogeneous solution forms. For work-up, the reaction mixture is poured into ice-water and extracted three times with methylene chloride. The organic phase is washed with sodium bicarbonate solution, dried with magnesium sulfate and concentrated. This gives 11.4 g of crude product which is employed in the next step without any further purification.

reactant | 3-(2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | 48 mmol, 10 g | CC1=C(C(=CC=C1)SC)C1=NOCC1 | C11H13NOS
reactant | bromine | 23 mmol, 3.7 g | BrBr | Br2
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
product | 3-(3-Bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | BrC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12BrNOS
